US04464381
6.2 g of imidazole and 1.3 g of sodium hydride (50% strength dispersion in mineral oil) were dispersed in 50 ml of N,N-dimethylformamide, and a solution of 12 g of 2-bromomethyl-2-(4-chlorophenyl)-3-(2,4-dichlorophenyl)-oxirane (isomer B) and 5 g of potassium iodide in 50 ml of N,N-dimethylformamide was added at room temperature (20° C.). After 8 hours, the reaction solution was poured onto water and the mixture was extracted with ethyl acetate. The organic phase was washed with water and dried over sodium sulfate, the solvent was evaporated off under reduced pressure and the residue was recrystallized from diisopropyl ether. 9.4 g (82.5%) of 2-(1H-imidazol-1-yl-methyl)-2-(4-chlorophenyl)-3-(2,4-dichlorophenyl)-oxirane (isomer B) of melting point 109° C. were obtained (compound 2).

reactant | imidazole | 6.2 g | N1C=NC=C1 | C3H4N2
reactant | sodium hydride | 1.3 g | [H-].[Na+]
reactant | 2-bromomethyl-2-(4-chlorophenyl)-3-(2,4-dichlorophenyl)-oxirane | 12 g | BrCC1(OC1C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)Cl | C15H10BrCl3O
reactant | potassium iodide | 5 g | [I-].[K+]
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-(1H-imidazol-1-yl-methyl)-2-(4-chlorophenyl)-3-(2,4-dichlorophenyl)-oxirane | 9.4 g, 82.5% | N1(C=NC=C1)CC1(OC1C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)Cl | C18H13Cl3N2O
